US04521430
2.0 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(methylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one and 1.0 g of n-propyl iodide are dissolved in 25 ml of dimethylformamide, and 1.16 g of potassium carbonate are added thereto. The mixture is stirred at room temperature for 4 hours. After the reaction, the mixture is poured into ice-water and then extracted with ethyl acetate. The extract is washed with water, dried and then condensed, whereby (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-methyl-N-n-propylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one is obtained as a colorless oil.

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(methylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 2.0 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCNC)C=CC=C2 | C19H22N2O3S
reactant | n-propyl iodide | 1.0 g | C(CC)I | C3H7I
reactant | potassium carbonate | 1.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-methyl-N-n-propylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(CCC)C)C=CC=C2 | C22H28N2O3S
